US04966905
2,2-Dimethyl-5-[2-(4-pyridinyl)ethenyl]-3(2H)-furanone
To a solution of dry diisopropylamine (2.6 mL, 19.1 mM) in dry tetrahydrofuran (350 mL) at -78° C., was added dropwise a 2.5M solution of n-butyllithium in hexane (7.6 mL, 19.1 mM). After the reaction solution was stirred for 15 minutes, a solution of 2,2,5-trimethyl-3(2H)-furanone (20 g, 15.9 mM) in tetrahydrofuran (25 mL) was added dropwise. Hexamethylphosphoramide (6.4 mL, 35.7 mM) was then added after 30 minutes. Finally, 4-pyridinecarboxaldehyde (2.5 g, 23.5 mM) in tetrahydrofuran (25 mL) was added in one portion. The reaction solution was stirred 15 minutes when trifluoracetic anhydride (6.7 mL, 47.7 mM) was added in one portion. Again, the reaction solution was stirred 15 minutes before triethylamine (11 mL, 80 mM) was added and was allowed to warm to room temperature. The reaction mixture was concentrated to 100 mL then diluted with diethyl ether (300 mL). The organic layer was extracted with 1N aqueous hydrochloric acid (100 mL). The acid layer was neutralized with solid sodium bicarbonate and washed with diethyl ether (2×100 mL). The combined etheral layers were washed with saturated aqueous sodium chloride (2×50 mL), dried over MgSO 4, filtered and concentrated under reduced pressure to give a brown crystalline solid. The crude product was purified by chromatography (silica gel, pet. ether/ethyl acetate) to afford a yellow crystalline solid (935 mg, 32% yield), m.p. 94°-96° C.

reactant | diisopropylamine | 19.1 mM, 2.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,2,5-trimethyl-3(2H)-furanone | 15.9 mM, 20 g | CC1(OC(=CC1=O)C)C | C7H10O2
reactant | 4-pyridinecarboxaldehyde | 23.5 mM, 2.5 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | trifluoracetic anhydride | 47.7 mM, 6.7 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
solvent | hexane | 19.1 mM, 7.6 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 80 mM, 11 mL | C(C)N(CC)CC | C6H15N
solvent | Hexamethylphosphoramide | 35.7 mM, 6.4 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2,2-Dimethyl-5-[2-(4-pyridinyl)ethenyl]-3(2H)-furanone | 935 mg, 32% yield | CC1(OC(=CC1=O)C=CC1=CC=NC=C1)C | C13H13NO2
